US05409928
Preparation of 4-t-butyldimethylsilyloxymethyl-2,3'-dimethylbenzhydrol
Magnesium (0.84 g, 34.6 millimol) was suspended in tetrahydrofuran (30 ml), and thereto was added a small amount of iodine. Under nitrogen atmosphere, a solution of 2-bromo-5-t-butyldimethylsilyloxymethyltoluene (10 g, 31.6 millimol) in tetrahydrofuran (10 ml) was added. When the mixture was heated for some time, the reaction was started, and heat generated. After stirring for 2 hours as it was, m-methylbenzaldehyde (3.16 g, 26.3 millimol) was added. After stirring for 2 hours, to the mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. The residue was separated and purified by using a silica-gel column chromatography (ethyl acetate:n-hexane=1:6) to give the title compound (6 g, 16.8 millimol, 64%).

reactant | Magnesium | 34.6 millimol, 0.84 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-bromo-5-t-butyldimethylsilyloxymethyltoluene | 31.6 millimol, 10 g | BrC1=C(C=C(C=C1)CO[Si](C)(C)C(C)(C)C)C | C14H23BrOSi
reactant | m-methylbenzaldehyde | 26.3 millimol, 3.16 g | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-t-butyldimethylsilyloxymethyl-2,3'-dimethylbenzhydrol | 16.8 millimol, 6 g, 64% | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(C(C2=CC(=CC=C2)C)O)C=C1)C | C22H32O2Si
